US07547691B2
2-{5-Methyl-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide tri-hydrochloride
A stirred mixture of 2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid methylamide (400 mg, 1.26 mmol) and 3-(4-methylpiperazin-1-yl)-propylamine (594 mg, 3.78 mmol) in 1,4-dioxane (6 mL) is heated at 95° C. under a nitrogen atmosphere for 60 hours. After concentration and subsequent chromatography on silica gel, eluting with 2 M NH3/MeOH in dichloromethane 0-8%, the free base of the title compound is obtained as a solid (325 mg, 59% yield). The free base (300 mg, 0.684 mmol) is dissolved in MeOH (20 mL) and dichloromethane (20 mL) and the solution is bubbled with a small stream of anhydrous HCl gas for 2 minutes. After concentration, the solid is suspended in MeOH (5 mL) and diethyl ether (20 mL), sonicated, filtered and dried at 60° C. under vacuum to give the title compound as a yellow solid (311 mg, 83% yield). ES+(m/z) 439 [M(free base)+H].

reactant | 2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid methylamide | 1.26 mmol, 400 mg | CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)Cl | C15H12ClN3OS
reactant | 3-(4-methylpiperazin-1-yl)-propylamine | 3.78 mmol, 594 mg | CN1CCN(CC1)CCCN | C8H19N3
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 2-{5-Methyl-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide tri-hydrochloride | Cl.Cl.Cl.CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)NCCCN2CCN(CC2)C | InChI=1S/C23H30N6OS.3ClH/c1-16-15-26-23(25-8-5-9-29-12-10-28(3)11-13-29)27-21(16)20-14-18-17(22(30)24-2)6-4-7-19(18)31-20;;;/h4,6-7,14-15H,5,8-13H2,1-3H3,(H,24,30)(H,25,26,27);3*1H
